US05290630
2.5-bis-(2-acetoxyethyloxy)aniline
A mixture of 2,5-bis(acetoxyethyloxy)nitrobenzene (7.5 g; 0.023 moles), methanol (200 ml) and 1% palladium on charcoal catalyst (1.0 g) was hydrogenated at room temperature and 10 atmospheres pressure for 20 hours. The reaction mixture was filtered and the residue was washed with methanol and water. The filtrate was evaporated to dryness to leave a solid residue which was used without further purification (6.24 g) m.p. 67.5°-69.5° C.

reactant | 2,5-bis(acetoxyethyloxy)nitrobenzene | 0.023 moles, 7.5 g | C(C)(=O)OCCOC1=C(C=C(C=C1)OCCOC(C)=O)[N+](=O)[O-] | C14H17NO8
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
product | 2.5-bis-(2-acetoxyethyloxy)aniline | C(C)(=O)OCCOC1=C(N)C=C(C=C1)OCCOC(C)=O | C14H19NO6
